US09216140B2
Dibutyl sebacate (DBS: n=18: molecular weight 314.47)
Mixture of dibutyl phthalate (n=16: molecular weight 278.35) and 15% by weight of ethanol (Standard)

reactant | dibutyl phthalate | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
solvent | ethanol | C(C)O | C2H6O
product | Dibutyl sebacate | C(CCCCCCCCC(=O)OCCCC)(=O)OCCCC | C18H34O4
